US05663154
2-Amino-6-chloro-9H-purine (0.48 g, 2.8 mmoles), (Aldrich Chemical Company, Milwaukee, Wis.) and 2',3'-dideoxy-3'-fluorouridine (0.50 g, 2.2 mmoles) were suspended in 50 ml 10 mM potassium phosphate buffer, pH 7.0, containing 0.04% potassium azide. Purine nucleoside phosphorylase (1120 I.U.) and thymidine phosphorylase (10,000 I.U.) (Krenitsky, et al., Biochemistry, 20, 3615, 1981 and U.S. Pat. No. 4,381,344) immobilized on DEAE cellulose was added and the suspension was stirred at 45° C. After 2 days, the reaction mixture was filtered and solvent was removed in vacuo. The residue was flash chromatographed on silica gel (2.5×20 cm) with dichloromethane:methanol:acetone (96:2:2). Solvent was removed and lyophilization yielded 0.15 g of 2-amino-6-chloro-9-(2,3-dideoxy-3-fluoro-β-D-erythro-pentofuranosyl)-purine (23%): mp 172° C.; [α]D20 -41.0 (c=0.5, DMF); UV λmax (ε×10-3) at pH 7, 308 (7.7); at pH 13, 303 (7.6); 1H NMR (300 MHz, DMSO-d6) δ8.36 (s, 1H, H8), 7.01 (s, 2H, NH2), 6.27 (dd, 1H, H1', J=9.0 Hz, J=5.8 Hz), 5.42 (dd, 1H, H3', J=53.8 HZ, J=4.4 Hz), 5.14 (t, 1H, OH5', J=5.4 Hz), 4.20 (dt, 1H, H4', J=26.5 Hz, J=4.8 Hz), 3.57 (t, 2H, H5' and H5", J=5.3 Hz), 2.63-3.04 (m, 2H, H2' and H2"); MS (ci) 288 (M+1), 268 (M-F), 70 (MH2 --C5H8FO2).

reactant | 2-Amino-6-chloro-9H-purine | 2.8 mmoles, 0.48 g | NC1=NC(=C2N=CNC2=N1)Cl | C5H4ClN5
reactant | 2',3'-dideoxy-3'-fluorouridine | 2.2 mmoles, 0.50 g | F[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O4
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
reactant | thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
solvent | potassium phosphate | 10 mM, 50 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | 2-amino-6-chloro-9-(2,3-dideoxy-3-fluoro-β-D-erythro-pentofuranosyl)-purine | 0.15 g, 23% | NC1=NC(=C2N=CN(C2=N1)[C@H]1C[C@@H]([C@H](O1)CO)F)Cl | C10H11ClFN5O2
